2179-10-31 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CC:[**CC Contact Info 11327**]   .
   HPI: This is a [**Age over 90 **] year old with tachy-brady w/PCM, recent acute on
   chronic SDH, hip fx 6 weeks ago who presents with failure to thrive and
   hypoxia. Per ED report and NH notes, patient was 92% on RA at the NH.
   He has lost 15-20 lbs in the past 6 weeks with poor PO intake. Per
   family history, his mental status prior to recent hospitalizations was
   good, able to converse, visiting friends. Since hip fracture, his
   mental status has decreased, frequently disoriented but intermittently
   answering questions. However, the son reports that his mental status
   seems to have worsened over the past week and that he seems to be
   grimacing in pain as well.
   .
   Of note his was admitted from [**Date range (2) 11311**] for right hip fracture,
   SHD and an episode of torsades. Torsades may have been due to
   florouquinolones, which were subsequently avoided. EP also increased
   demand pacing to 80 and pt was started on metoprolol.  His subdural
   hematomas were followed on serial HCT and were found to be stable.
   There was also a concern for aspiration pneumonitis, although S/S eval
   cleared the pt for thicked fluids but was concerned for aspiraton.
   .
   In the ED: He was found to he in afib at 112 w/o ischemic changes,
   slightly  elevated trop at 0.04. Cardiology consulted w/o recommended
   no intervention. CT abd noted a large amount of stool and very large
   left effusion with lung collapse. He was given Zosyn and Levofloxacin.
   Initially his lactate was 3.9 but improved with one liter NS to 2.0.
   vitals:99.8, BP 109/89, 100-140's in afib, 93% RA -98%2L
   .
   ROS: unable to obtain
   .
   PMH:
   -s/p pacemaker ([**6-1**])  for bradycarida
   -SDH s/p [**2179**]
   -GERD
   -s/p hernia repair
   -BPH
   -thallasemia
   -eye implant
   - hip fracture
   - episode of torsades
   .
   Home Medications:
   omeprazole 20mg PO daily
   Proscar 5mg daily
   Metoprolol ER 25mg qdaily
   Colace
   Senna
   Zinc
   .
   Allergies: NKDA
   .
   Social History:
   Former musician.
   Tobacco history: Remote tobacco history.
   ETOH: Used to drink. No current alcohol use per son.
   .
   Family History: NC
   .
   Physical Exam:
   Vitals: T: P: BP: R: SaO2:
   General: Awake, grimacing, very thin
   HEENT: NC/AT, PERRL, EOMI without nystagmus, no scleral icterus noted,
   MMM, no lesions noted in OP
   Neck: supple, no JVD
   Pulmonary: no labored breathing, no crackles, absent lung sounds of
   left side, diminished lung sounds right side
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: firm, hard mass in LUQ, diffusely mildly tender, ND,
   normoactive bowel sounds, no masses or organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Neurologic:
   -mental status: drowsy, grimacing in pain, not following commands or
   answering questions
   .
   Laboratory Data: see below
   .
   Micro:
   - blood cx: pending
   - UA: few bacteria, [**2-25**] WBC
   .
   EKG: afib at 112 with LBBB, no ichemia
   .
   Radiologic Data:
   -CT head without contrast ([**2179-9-14**]):
   1. Subacute on chronic bilateral subdural hematomas
   as described above. There is 4mm of resultant rightward midline
   shift.
   2. No definite evidence of acute intracranial hemorrhage. No acute
   fracture.
   - CT Head without contrast ([**2179-9-21**]): Stable bilateral subdural
   hematomas with acute-on-chronic components. No evidence of new
   acute hemorrhage.
   - CT abd [**2179-10-30**]: Progress v large R pleural effusion with ass. Rectal
   stool ball and mod fecal loading
   .
   Assessment and Plan: [**Age over 90 **] year old with afib w/PCM, recent acute on
   chronic SDH, hip fx 6 weeks ago who presents with failure to thrive and
   hypoxia.
   .
   # Hypoxia: The patient is mildly intermittently hypoxic, no 98% on 2L.
   Given the degree of lung collapse, it is difficult r/o PNA but pt has
   no fever or WBC. CT scan reveals a very large unilateral effusion of
   uclear etiology at this point - CHF?, mucus pluging? Given relatively
   good oxygenation, will defer thoracentesis until tomorrow.
   - thoracentesis tomorrow
   - repeat echo
   - add on BNP
   .
   # Altered mental status: Per family, mental status is slightly worse
   over the past week. [**1-25**] mild hypoxia? Worsening SDH (missed f/u head CT
   last week)? Pain? Stool impaction? No evidence of fever or leukocytosis
   to suggest infection. UA neg. Electrolytes nl- just mildly
   hypernatremia, ? past hx of hyperosmolar hypernatremia.
   -head CT
   - f/u cultures
   - follow sodium
   - pain control tyelonol
   - bowel regimen
   - repeat echo
   - thoracentesis
   .
   # Afib/ arrythmias: HR 100 now; torsades on last admission
   - change toprol 25mg daily to metoprolol 12.5mg [**Hospital1 7**] for ease of
   titration
   - avoid QTc prolonging medications
   - monitor on tele
   .
   # Stool impaction:
   - try miralax and enemas but may need disimpaction
   .
   # S/p Hip fracture: miss f/u ortho appointment
   - tylenol for pain
   .
   #) Prophylaxis: PPI,  bowel regimen, hold heparin sc until neg head CT
   .
   #) FEN: aspiration precautions, ground solids
   .
   #) Access: PIVs
   .
   #) Code Status: DNR/DNI
   .
   #) Dispo: pending further work-up and treatment
   -----------------------------------------------------------
   11.7
   -Per radiology, NCHCT with worsening subdural hematoma on the right
   side.  Neurosurgery was consulted.
   -BNP 9319
   -Got 1L of NS, K repleted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2179-10-30**] 11:55 PM
   Vancomycin - [**2179-10-31**] 12:45 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2179-10-31**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-31**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 85 (82 - 128) bpm
   BP: 92/51(76) {92/51(63) - 142/80(90)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    345 mL
                                                                  3,742 mL
   PO:
             TF:
   IVF:
                                                                    345 mL
                                                                  1,242 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    225 mL
   Urine:
                                                                    175 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                  3,517 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General: Awake, grimacing, very thin
   HEENT: NC/AT, PERRL, EOMI without nystagmus, no scleral icterus noted,
   MMM, no lesions noted in OP
   Neck: supple, no JVD
   Pulmonary: no labored breathing, no crackles, absent lung sounds of
   left side, diminished lung sounds right side
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: firm, lumpy, diffusely mildly tender, ND, normoactive bowel
   sounds, no masses or organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted, stage 2 sacral decubitous ulcer
   Neurologic:
   -mental status: drowsy, grimacing in pain, not following commands or
   answering questions
   Labs / Radiology
   282 K/uL
   10.4 g/dL
   117 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   25 mg/dL
   112 mEq/L
   143 mEq/L
   35.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2179-10-31**]  05:30 AM
   WBC
   9.7
   Hct
   35.1
   Plt
   282
   Cr
   0.9
   Glucose
   117
   Other labs: PT / PTT / INR:15.0/28.9/1.3, Lactic Acid:2.0 mmol/L,
   Albumin:2.4 g/dL, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old with afib w/PCM, recent acute on chronic SDH, hip fx 6
   weeks ago who presents with failure to thrive and hypoxia.
   .
   # Hypoxia: The patient is mildly intermittently hypoxic, now 98% on
   2L.  Given the degree of lung collapse, it is difficult r/o PNA but pt
   has no fever or WBC. CT scan reveals a very large unilateral effusion
   of unclear etiology at this point -mucus pluging? Parapneumonic [**1-25**]
   aspiration? Given relatively good oxygenation, will defer thoracentesis
   until tomorrow.
   - thoracentesis tomorrow
   - repeat echo
   - add on BNP
   - Vanc/zosyn as HCAP/aspiration is most likely reason for effusion
   .
   # Altered mental status: Per family, mental status is slightly worse
   over the past week. [**1-25**] mild hypoxia? Worsening SDH (missed f/u head CT
   last week)? Pain? Stool impaction? No evidence of fever or leukocytosis
   to suggest infection. UA neg. Electrolytes nl- just mildly
   hypernatremia, ? past hx of hyperosmolar hypernatremia.
   - Vanc/Zosyn
   -head CT
   - f/u cultures
   - follow sodium
   - pain control tyelnol
   - bowel regimen
   - repeat echo
   - thoracentesis
   .
   # Afib/ arrythmias: HR 100 now; torsades on last admission
   - change toprol 25mg daily to metoprolol 12.5mg [**Hospital1 7**] for ease of
   titration
   - avoid QTc prolonging medications
   - monitor on tele
   - asa 325mg
   .
   # Stool impaction:
   - try miralax and enemas but may need disimpaction
   .
   # S/p Hip fracture: miss f/u ortho appointment
   - tylenol for pain
   .
   #) Prophylaxis: bowel regimen, hold heparin sc until neg head CT,
   pneumoboots
   .
   #) FEN: aspiration precautions, ground solids
   .
   #) Access: PIVs
   .
   #) Code Status: DNR/DNI
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-30**] 09:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU, likely call out in am vs post-thoracentesis

2179-11-01 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -made NPO due to concern for aspiration, needs speech and swallow
   evaluation
   -started pneumoboots
   -PICC line placed
   -got ativan 0.25 mg x 1 for agitation in setting PICC placement
   -got IV fluid boluses x 2 (for hypotension and low urine output)
   -per neuro, needs repeat head CT [**2179-11-1**] (not ordered)
   -to get echo [**2179-11-1**] (ordered)
   -plan for thoracentesis [**2179-11-1**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2179-10-31**] 12:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-11-1**] 02:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2179-10-31**] 02:15 PM
   Metoprolol - [**2179-11-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-11-1**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 91 (82 - 94) bpm
   BP: 110/82(61) {84/31(41) - 132/104(109)} mmHg
   RR: 32 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  4,764 mL
                                                                    672 mL
   PO:
             TF:
   IVF:
                                                                  2,264 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    115 mL
   Urine:
                                                                    595 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,169 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General: Awake, grimacing, very thin
   HEENT: NC/AT, PERRL, EOMI without nystagmus, no scleral icterus noted,
   MMM, no lesions noted in OP
   Neck: supple, no JVD
   Pulmonary: no labored breathing, no crackles, absent lung sounds of
   left side, diminished lung sounds right side
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: firm, lumpy, diffusely mildly tender, ND, normoactive bowel
   sounds, no masses or organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted, stage 2 sacral decubitous ulcer
   Neurologic:
   -mental status: drowsy, grimacing in pain, not following commands or
   answering questions
   Labs / Radiology
   349 K/uL
   10.2 g/dL
   74 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.3 mEq/L
   25 mg/dL
   116 mEq/L
   145 mEq/L
   34.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2179-10-31**]  05:30 AM
                             [**2179-11-1**]  04:51 AM
   WBC
   9.7
   12.9
   Hct
   35.1
   34.2
   Plt
   282
   349
   Cr
   0.9
   0.8
   Glucose
   117
   74
   Other labs: PT / PTT / INR:14.5/30.3/1.3, Lactic Acid:2.0 mmol/L,
   Albumin:2.4 g/dL, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old with afib w/PCM, recent acute on chronic SDH, hip fx 6
   weeks ago who presents with failure to thrive and hypoxia.
   .
   # Hypoxia: The patient is mildly intermittently hypoxic, now 98% on
   2L.  Given the degree of lung collapse, it is difficult r/o PNA but pt
   has no fever or WBC. CT scan reveals a very large unilateral effusion
   of unclear etiology at this point -mucus pluging? Parapneumonic [**1-25**]
   aspiration? Given relatively good oxygenation, will defer thoracentesis
   until tomorrow.
   - thoracentesis tomorrow
   - repeat echo
   - add on BNP
   - Vanc/zosyn as HCAP/aspiration is most likely reason for effusion
   .
   # Altered mental status: Per family, mental status is slightly worse
   over the past week. [**1-25**] mild hypoxia? Worsening SDH (missed f/u head CT
   last week)? Pain? Stool impaction? No evidence of fever or leukocytosis
   to suggest infection. UA neg. Electrolytes nl- just mildly
   hypernatremia, ? past hx of hyperosmolar hypernatremia.
   - Vanc/Zosyn
   -head CT
   - f/u cultures
   - follow sodium
   - pain control tyelnol
   - bowel regimen
   - repeat echo
   - thoracentesis
   .
   # Afib/ arrythmias: HR 100 now; torsades on last admission
   - change toprol 25mg daily to metoprolol 12.5mg [**Hospital1 7**] for ease of
   titration
   - avoid QTc prolonging medications
   - monitor on tele
   - asa 325mg
   .
   # Stool impaction:
   - try miralax and enemas but may need disimpaction
   .
   # S/p Hip fracture: miss f/u ortho appointment
   - tylenol for pain
   .
   #) Prophylaxis: bowel regimen, hold heparin sc until neg head CT,
   pneumoboots
   .
   #) FEN: aspiration precautions, ground solids
   .
   #) Access: PIVs
   .
   #) Code Status: DNR/DNI
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-30**] 09:15 PM
   PICC
 [**2179-10-31**]
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU, likely call out in am vs post-thoracentesis

2179-11-01 12:11:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, large right pleural effusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] y.o. man with chronic SDH, large right pleural effusion, small left
   effusion, CHF (EF ~ 30%)
   24 Hour Events:
 PICC LINE - START [**2179-10-31**] 03:59 PM
   Denies pain or SOB
   Patient unable to provide history: oriented only to name at baseline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2179-10-31**] 12:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-11-1**] 02:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2179-10-31**] 02:15 PM
   Metoprolol - [**2179-11-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-11-1**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 92 (82 - 96) bpm
   BP: 121/62(75) {91/42(58) - 132/104(109)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  4,764 mL
                                                                    720 mL
   PO:
             TF:
   IVF:
                                                                  2,264 mL
                                                                    720 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    215 mL
   Urine:
                                                                    595 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,169 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: right side 3/4 up)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): name only, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   10.2 g/dL
   349 K/uL
   74 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.3 mEq/L
   25 mg/dL
   116 mEq/L
   145 mEq/L
   34.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2179-10-31**]  05:30 AM
                             [**2179-11-1**]  04:51 AM
   WBC
   9.7
   12.9
   Hct
   35.1
   34.2
   Plt
   282
   349
   Cr
   0.9
   0.8
   Glucose
   117
   74
   Other labs: PT / PTT / INR:14.5/30.3/1.3, Lactic Acid:2.0 mmol/L,
   Albumin:2.4 g/dL, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 DYSPHAGIA:  Needs speech and swallow exam.  Continure NPO.
 PLEURAL EFFUSION, ACUTE;  [**Month (only) 51**] be secondaryto aspiration PNA with
   complicated parapneumonic effusion.  Given low EF, may be component of
   heart failure albeit he has not signs of right sided heart failure.
   Diagnostic thorocentesis today if patient will tolerate it. [**Hospital **]
   transfer to the medical floor after procedure. Continue abx.
 ALTERED MENTAL STATUS (NOT DELIRIUM);  Oriented only to name
   (baseline). Family feels he is more responsive than baseline.
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK):  Resolved.
 SUBDURAL HEMORRHAGE (SDH):  Repeat head CT in 24 hours. STable from a
   neuro standpoint.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2179-10-31**] 03:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes